US07129238B2
(RS)-(2,2-Dimethyl-chroman-6-yl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-N-(4-cyano-benzyl)-2-(2,2-dimethyl-chroman-6-yl)-2-methoxy-acetamide. Off-white semi-solid. MS 365.2 ([M+H]+)

reactant | (RS)-(2,2-Dimethyl-chroman-6-yl)-methoxy-acetic acid | CC1(OC2=CC=C(C=C2CC1)C(C(=O)O)OC)C | C14H18O4
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-(2,2-dimethyl-chroman-6-yl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C=2C=C3CCC(OC3=CC2)(C)C)=O)C=C1 | C22H24N2O3
